US07576215B2
3-[3-(8-CHLORO-3-METHYLQUINOLIN-4-YL)PHENOXY]-N-ETHYLBENZAMIDE
To a stirred suspension of ethylamine hydrochloride (41 mg, 0.50 mmol) in toluene (2 mL) at ambient temperature under nitrogen is added 2.0M trimethylaluminum in toluene (0.25 mL, 0.50 mmol). After 0.5 h, methyl 3-[3-(8-chloro-3-methylquinolin-4-yl)phenoxy]benzoate (101 mg, 0.25 mmol) is added and the reaction heated at 60-65° C. for 16 h. The cooled reaction is treated with water (2 mL), then 2M aq HCl (1 mL) and extracted with dichloromethane (2×5 mL). The combined extracts are dried (MgSO4), concentrated in vacuo, and the resulting oil is chromatographed on silica gel using 50:50, then 75:25 ethyl acetate:hexane as eluent. The title compound is isolated as a glass (Rf˜0.3 in first solvent system, 101 mg). MS (ES) m/z 417.2; HRMS: calcd for C25H21ClN2O2+H+, 417.13643; found (ESI, [M+H]+), 417.1357.

reactant | ethylamine hydrochloride | 0.50 mmol, 41 mg | Cl.C(C)N
reactant | trimethylaluminum | 2.0M | C[Al](C)C
reactant | methyl 3-[3-(8-chloro-3-methylquinolin-4-yl)phenoxy]benzoate | 0.25 mmol, 101 mg | ClC=1C=CC=C2C(=C(C=NC12)C)C=1C=C(OC=2C=C(C(=O)OC)C=CC2)C=CC1 | C24H18ClNO3
reactant | water | 2 mL | O | H2O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.50 mmol, 0.25 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[3-(8-CHLORO-3-METHYLQUINOLIN-4-YL)PHENOXY]-N-ETHYLBENZAMIDE | ClC=1C=CC=C2C(=C(C=NC12)C)C=1C=C(OC=2C=C(C(=O)NCC)C=CC2)C=CC1 | C25H21ClN2O2
